US06706709B2
5-Phenyl-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of 5-phenyl-2-oxindole (23 mg, 0.11 mmol), 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde (29 mg, 0.11 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 30 mg (61%) of the title compound as an orange solid.

reactant | 5-phenyl-2-oxindole | 0.11 mmol, 23 mg | C1(=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C14H11NO
reactant | 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde | 0.11 mmol, 29 mg | N1(CCCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-Phenyl-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 30 mg, 61% | C1(=CC=CC=C1)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=C(C=C2C1)OCCN1CCCC1 | C29H27N3O2
